US05663200
89c) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxyphenyl)-2(R)-[(4-biphenylyl)methyl]hexanoic acid
3.19 g (5.4 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-[(4-biphenylyl)methyl]hexanoic acid in 55 ml of DMF are silylated, at RT for 20 h and under a protective gas, with 3.71 g (24.6 mmol) of tert-butyldimethylchlorosilane and 3.0 g (44 mmol) of imidazole. The reaction mixture is evaporated and the residue is taken up in ethyl acetate; this solution is then washed with sat. NaHCO3 solution, water and saline. The aqueous phases are extracted 2× with ethyl acetate and the organic phases are dried with Na2SO4 and evaporated. The residue is dissolved in 64 ml of methanol and 15 ml of THF, and this solution is treated with 4.5 g of potassium carbonate and 15 ml of water and stirred at RT for 1 h. Working up in analogy with Example 88c), and medium pressure chromatography (gradient: 0-10% methanol in methylene chloride), results in the title compound: TLC Rf (B)=0.7; tRet (II)=22.7 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-[(4-biphenylyl)methyl]hexanoic acid | 5.4 mmol, 3.19 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C37H41NO6
reactant | tert-butyldimethylchlorosilane | 24.6 mmol, 3.71 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 44 mmol, 3.0 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxyphenyl)-2(R)-[(4-biphenylyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C43H55NO6Si
